US08124607B2
(3-Bromo-propyl)-triphenyl-phosphonium bromide was dissolved in ethanol/water (1/1). To it sodium azide was added. The reaction mixture was heated up to reflux overnight. Solvents were removed by evaporation. The residue was extracted by dry ethanol. Filtered and evaporated to give crude (3-azido-propyl)-triphenyl-phosphonium bromide and was used directly for the next step reaction without further purification.

reactant | (3-Bromo-propyl)-triphenyl-phosphonium bromide | [Br-].BrCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | ethanol water | C(C)O.O
product | (3-azido-propyl)-triphenyl-phosphonium bromide | [Br-].N(=[N+]=[N-])CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H21N3P.BrH/c22-24-23-17-10-18-25(19-11-4-1-5-12-19,20-13-6-2-7-14-20)21-15-8-3-9-16-21;/h1-9,11-16H,10,17-18H2;1H/q+1;/p-1
